US06130239
A mixture of concentrated sulfuric acid (0.73 mL) and concentrated nitric acid (0.14 mL) was added slowly to a solution of 1,3-dihydro-4-iodo-2H-indol-2-one (0.5 g, 1.93 mmol) (see T. Fukuyama, supra, and Kende, supra) in concentrated sulfuric acid (6 mL) at -5° C. with stirring. The mixture was stirred for an additional 15 min at -5° C. then poured into ice. After standing for 1 h, solid was collected by filtration and washed with water, and dried in a vacuum oven to give 1,3-dihydro-4-iodo-5-nitro-2H-indol-2-one. (Yield 0.46 g, 78%).

reactant | nitric acid | 0.14 mL | [N+](=O)(O)[O-] | HNO3
reactant | 1,3-dihydro-4-iodo-2H-indol-2-one | 1.93 mmol, 0.5 g | IC1=C2CC(NC2=CC=C1)=O | C8H6INO
solvent | sulfuric acid | 6 mL | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 0.73 mL | S(O)(O)(=O)=O | H2O4S
product | 1,3-dihydro-4-iodo-5-nitro-2H-indol-2-one | IC1=C2CC(NC2=CC=C1[N+](=O)[O-])=O | C8H5IN2O3
